US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yloxy)-isonicotinamide
From (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride and tetrahydro-2H-pyranol-4-ol in dioxane and DMF. [α]D20=+12.4° (c=0.11, CHCl3), ES-MS m/e (%): 472 (M+H+, 100).

reactant | (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride | [H-].[Na+].BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yloxy)-isonicotinamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)OC2CCOCC2)=O)OC | C23H25N3O6S
